US07323475B2
a. (R)-2-[(7-Benzyloxy-1-chloro-4-hydroxy-isoquinoline-3-carbonyl)-amino]-propionic acid methyl ester
7-Benzyloxy-1-chloro-4-hydroxy-isoquinoline-3-carboxylic acid, 0.33 g, was coupled with D-Alanine methyl ester analogously to Example A-1 a). 0.246 g of off-white solid were obtained: MS-(+)-ion, M+1=415.0 amu.

reactant | 7-Benzyloxy-1-chloro-4-hydroxy-isoquinoline-3-carboxylic acid | C(C1=CC=CC=C1)OC1=CC=C2C(=C(N=C(C2=C1)Cl)C(=O)O)O | C17H12ClNO4
reactant | D-Alanine methyl ester | COC([C@H](N)C)=O | C4H9NO2
product | (R)-2-[(7-Benzyloxy-1-chloro-4-hydroxy-isoquinoline-3-carbonyl)-amino]-propionic acid methyl ester | 0.246 g | COC([C@@H](C)NC(=O)C=1N=C(C2=CC(=CC=C2C1O)OCC1=CC=CC=C1)Cl)=O | C21H19ClN2O5
